US08067448B2
2-chloro-4-((1R,2R)-2-hydroxy-1-(5-(4-(methylsulfonyl)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-3-methylbenzonitrile
To a 250 mL, round-bottomed flask equipped with a magnetic stir bar and septum was added N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenyl-amino)-3-hydroxybutanoyl)-4-(methylsulphonyl)benzohydrazide (855 mg, 1.8 mmol) followed by a addition of anhydrous THF (200 mL) under an atmosphere of nitrogen. To this was then added tosyl chloride (350 mg, 1.8 mmol) followed by addition of polystyrene bound (2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine (PS-BEMP) (2.2 mmol/g loading, 2.51 g, 5.5 mmol). This mixture was allowed to stir at room temperature for 6.5 h. The solids were then filtered off and washed with additional THF (100 mL). The filtrate was then concentrated under reduced pressure to reveal a red solid. This was purified via silica gel chromatography eluted with 70% EtOAc/hexanes to yield product as a white solid (209 mg, 25%). 1H NMR (400 MHz, acetone-d6, δ in ppm) 8.25 (AA′XX′, J=8.4 Hz, 2H), 8.13 (AA′XX′, J=8.8 Hz, 2H), 7.49 (d, J=8.8 Hz, 1H), 6.90 (d, J=8.8 Hz, 1H), 5.90 (d, J=9.0 Hz, 1H), 5.11 (dd, J=5.6, 8.9 Hz, 1H), 4.70 (d, J=6.0 Hz, 1H), 4.55 (m, 1H), 3.19 (s, 3H), 2.37 (s, 3H), 1.43 (d, J=6.2 Hz, 3H).

reactant | N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenyl-amino)-3-hydroxybutanoyl)-4-(methylsulphonyl)benzohydrazide | 1.8 mmol, 855 mg | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)S(=O)(=O)C)=O)[C@@H](C)O)C | C20H21ClN4O5S
reactant | tosyl chloride | 1.8 mmol, 350 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine | 5.5 mmol, 2.51 g | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
reactant | BEMP | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-((1R,2R)-2-hydroxy-1-(5-(4-(methylsulfonyl)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-3-methylbenzonitrile | 209 mg, 25% | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@@H](C)O)C=1OC(=NN1)C1=CC=C(C=C1)S(=O)(=O)C | C20H19ClN4O4S
